US05475093
3,4-Methylenedioxynitrosobenzene (1.05 g, 6.9 mmol) was dissolved in dichloromethane (20 ml). After the addition of cyanamide (0.42 g, 9.9 mmol) and N-bromosuccinimide (1.8 g, 9.9 mmol) the mixture was stirred at ambient temperature overnight. The resulting mixture was filtered and evaporated to dryness. Column chromatography on silica using 1:1 petroleum ether: ethyl acetate as eluant yielded 1.1 g 3,4-methylenedioxyphenyl-ONN-azoxycyanide as a yellow solid, m.pt. 145°-147° C. (Yield: 82.7% of theoretical).

reactant | 3,4-Methylenedioxynitrosobenzene | 6.9 mmol, 1.05 g | C1OC=2C=C(C=CC2O1)N=O | C7H5NO3
reactant | cyanamide | 9.9 mmol, 0.42 g | N#CN | CH2N2
reactant | N-bromosuccinimide | 9.9 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,4-methylenedioxyphenyl-ONN-azoxycyanide | 1.1 g, Yield: 82.7% | C1OC=2C=C(C=CC2O1)[N+]([O-])=NC#N | C8H5N3O3
